US03940395
a solution of 7.8 g. of 4,6-dichloro-2-(m-chlorophenyl)-pyrimidine and 6.0 g. of N-methylpiperazine in 35 ml. of absolute ethanol is refluxed for fifteen minutes. Pouring of the resulting solution into 700 ml. of water causes separation of a gummy material which solidifies on standing over a weekend. The crude product weighs 6.5 g. and recrystallization from n-heptane affords cotton-like crystals of 4-chloro-2-(3-chlorophenyl)-6-(4-methylpiperazin-1-yl)-pyrimidine, m.p. 93°-94°C.

reactant | 4,6-dichloro-2-(m-chlorophenyl)-pyrimidine | ClC1=NC(=NC(=C1)Cl)C1=CC(=CC=C1)Cl | C10H5Cl3N2
reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-chloro-2-(3-chlorophenyl)-6-(4-methylpiperazin-1-yl)-pyrimidine | ClC1=NC(=NC(=C1)N1CCN(CC1)C)C1=CC(=CC=C1)Cl | C15H16Cl2N4
